US08426432B2
2,4-Diamino-5-iodo-6-methylpyrimidine (250 mg) was allowed to react with 5-(But-3-yn-2-yl)-1,2,3-trimethoxybenzene (440 mg) as per the general procedure to afford 2,4-Diamino-5-(3-(3,4,5-trimethoxyphenyl)but-1-ynyl)-6-methylpyrimidine as a white powder (294 mg, 86%): Rf=0.29 (9:1, CHCl3:MeOH); mp=191-193° C.; 1H NMR (DMSO-d6) δ 6.76 (s, 2H), 6.19 (s, 2H), 4.02 (q, J) 7.1 Hz, 1H), 3.77 (s, 6H), 3.63 (s, 3H), 2.21 (s, 3H), 1.51 (d, J) 7.1 Hz, 3H); 13C NMR (DMSO-d6) δ 167.0, 164.1, 161.0, 152.8, 139.4, 136.0, 104.0, 100.8, 88.6, 76.4, 60.0, 55.8, 32.5, 24.6, 22.5; Anal. (C18H22N4O3) C, H, N.

reactant | 2,4-Diamino-5-iodo-6-methylpyrimidine | 250 mg | NC1=NC(=C(C(=N1)N)I)C | C5H7IN4
reactant | 5-(But-3-yn-2-yl)-1,2,3-trimethoxybenzene | 440 mg | CC(C#C)C=1C=C(C(=C(C1)OC)OC)OC | C13H16O3
product | 2,4-Diamino-5-(3-(3,4,5-trimethoxyphenyl)but-1-ynyl)-6-methylpyrimidine | 294 mg, 86% | NC1=NC(=C(C(=N1)N)C#CC(C)C1=CC(=C(C(=C1)OC)OC)OC)C | C18H22N4O3
